US06313137B1
Synthesis of 2,3-dimethyl-8-(2-ethyl-6-methylbenzylamino)-N-propyl-imidazo[1,2-a]pyridine-6-carboxamide
Ethyl 2,3-dimethyl-8-(2-ethyl-6-methylbenzylamino)-imidazo[1,2-a]pyridine-6-carboxylate (0.12 g, 0.33 mmol), propylamine (1.0 g, 17 mmol) and a cat. amount of sodium cyanide were refluxed in methanol (20 ml) for 24 h. An additional amount of propylamine (1.0 g, 17 mmol) was added and the reaction mixture was refluxed for 24 h. The solvent was evaporated under reduced pressure and the residue was purified by column chromatography on silica gel using dietyl ether as eluent. Crystallization from diethyl ether gave 0.053 g (42%) of the title compound.

reactant | Ethyl 2,3-dimethyl-8-(2-ethyl-6-methylbenzylamino)-imidazo[1,2-a]pyridine-6-carboxylate | 0.33 mmol, 0.12 g | CC=1N=C2N(C=C(C=C2NCC2=C(C=CC=C2C)CC)C(=O)OCC)C1C | C22H27N3O2
reactant | propylamine | 17 mmol, 1.0 g | C(CC)N | C3H9N
reactant | sodium cyanide | [C-]#N.[Na+]
reactant | propylamine | 17 mmol, 1.0 g | C(CC)N | C3H9N
solvent | methanol | 20 ml | CO | CH4O
product | 2,3-dimethyl-8-(2-ethyl-6-methylbenzylamino)-N-propyl-imidazo[1,2-a]pyridine-6-carboxamide | 0.053 g, 42% | CC=1N=C2N(C=C(C=C2NCC2=C(C=CC=C2C)CC)C(=O)NCCC)C1C | C23H30N4O
